US09403801B2
Step 3) 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 5-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (1.66 g, 4.01 mmol) in DCM (20 mL) was added a solution of HCl in EtOAc (20 mL, 80 mmol). The reaction mixture was stirred at rt for 1 h and concentrated in vacuo. The residue was dissolved in water (30 mL) and adjusted to pH=10 with saturated Na2CO3 aqueous solution, then extracted with DCM (250 mL×3). The combined organic phases were washed with brine (250 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/5) to give the title compound as a beige solid (505.2 mg, 40.2%).

reactant | tert-butyl 5-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 4.01 mmol, 1.66 g | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C21H31N7O2
reactant | HCl | Cl | ClH
reactant | EtOAc | 80 mmol, 20 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine | 505.2 mg, 40.2% | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CNC2)C1 | C16H23N7
